US07884207B2
A solution of allyl magnesium bromide in diethyl ether (1 M, 53 mL, 53 mmol) was added dropwise to a solution of cyclohexanone (5.00 mL, 48.2 mmol) in diethyl ether at 0° C. The cloudy white reaction mixture was allowed to stir at rt overnight. The reaction was quenched with saturated aqueous NH4Cl (100 mL) and diluted with water (20 mL) and diethyl ether (50 mL). The mixture was transferred to a separatory funnel and the layers were separated. The aqueous layer was extracted with diethyl ether (2×50 mL). The combined organic layers were washed with brine (100 mL), dried over MgSO4, filtered, and concentrated to afford a 1-allylcyclohexanol as a colorless oil (6.97, 103%) that contained a small amount of diethyl ether.

reactant | allyl magnesium bromide | C(C=C)[Mg]Br
reactant | cyclohexanone | 48.2 mmol, 5.00 mL | C1(CCCCC1)=O | C6H10O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 53 mmol, 1 M, 53 mL | C(C)OCC | C4H10O
product | 1-allylcyclohexanol | C(C=C)C1(CCCCC1)O | C9H16O
